US04616025
6.36 g (50 moles) of 3-benzyl-2-cyanimino-thiazolidine are boiled with 80 ml of a 10% hydrochloric acid for 10 minutes. A clear solution is obtained, which is cooled down and alkalized with a 25% aqueous ammonium hydroxide solution to yield 5.65 g of 3-benzyl-2-carbamoylimino-thiazolidine, melting at 143° to 145° C. After crystallization from ethanol the melting point is raised to 148° C.

reactant | 3-benzyl-2-cyanimino-thiazolidine | 50 moles, 6.36 g | C(C1=CC=CC=C1)N1C(SCC1)=NC#N | C11H11N3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-benzyl-2-carbamoylimino-thiazolidine | 5.65 g | C(C1=CC=CC=C1)N1C(SCC1)=NC(N)=O | C11H13N3OS
